US04847294
Step A: 2-(2-Hydroxyethyl)-4-nitro-2H-1,2-benzisothiazol-3-one 1,1-dioxide
To approximately 2 ml of ethylene oxide cooled in an ice bath was added a suspension of 4-nitro-2H-1,2-benzisothiazol-3-one 1,1-dioxide (2.0 g, 8.76 mmol) in H2O (140 ml). After stirring in the ice bath for 1 hour, the mixture was allowed to stir at 20-25° for 18 hours. Water was removed under reduced pressure and the residue flash chromatographed over silica gel. Elution with 2% isopropanol-98% CH2Cl2 gave product which was recrystallized from EtOAc-hexane to give the 2-hydroxethyl derivative (0.39 g, 16%), m.p. 140-1°.

reactant | ethylene oxide | approximately 2 ml | C1CO1 | C2H4O
reactant | 4-nitro-2H-1,2-benzisothiazol-3-one 1,1-dioxide | 8.76 mmol, 2.0 g | [N+](=O)([O-])C1=CC=CC2=C1C(NS2(=O)=O)=O | C7H4N2O5S
solvent | H2O | 140 ml | O | H2O
product | 2-(2-Hydroxyethyl)-4-nitro-2H-1,2-benzisothiazol-3-one 1,1-dioxide | OCCN1S(C2=C(C1=O)C(=CC=C2)[N+](=O)[O-])(=O)=O | C9H8N2O6S
